US04689345
Alpha and beta isomers of 7-acetoxy-2-(5-methoxyhept-1-y)bicyclo [3.3.0]octane {octahydro-4-(5-methoxyheptyl)-2-pentalenol acetate}
The procedure followed is the same as that described in Example 24 substituting 2-(5-methoxyhept-1-yl)bicyclo[3.3.0]-7octanol {octahydro-4-(5-methoxyheptyl)-2-pentalenol} (1.0 g, 4.0 mmoles), and glacial acetic acid (7 ml). The product is kugelrohred under reduced pressure leaving a clear, colorless oil (0.7 g, 2.5 mmoles).

reactant | octahydro-4-(5-methoxyheptyl)-2-pentalenol | COC(CCCCC1C2CC(CC2CC1)O)CC | C16H30O2
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 7-acetoxy-2-(5-methoxyhept-1-y)bicyclo [3.3.0]octane | 2.5 mmoles, 0.7 g | C(C)(=O)OC1CC2CCC(C2C1)CCCCC(CC)OC | C18H32O3
